US07230020B2
Reaction of 6-Amino-3,4-dihydro-2H-naphthalen-1-one (80 mg, 0.50 mmol) in THF (6 mL) with m-anisoyl chloride (90 μL, 0.65 mmol) in presence of triethylamine (90 μL, 0.65 mmol) according to method A gave 3-methoxy-N-(5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzamide (135 mg, 0.46 mmol, 92% yield) as a white powder after purification by flash chromatography on silica gel (eluent:EtOAc/DCM 0/10 to 2/8).

reactant | 6-Amino-3,4-dihydro-2H-naphthalen-1-one | 0.50 mmol, 80 mg | NC=1C=C2CCCC(C2=CC1)=O | C10H11NO
reactant | m-anisoyl chloride | 0.65 mmol, 90 μL | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | triethylamine | 0.65 mmol, 90 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-methoxy-N-(5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzamide | 0.46 mmol, 135 mg, 92% yield | COC=1C=C(C(=O)NC2=CC=3CCCC(C3C=C2)=O)C=CC1 | C18H17NO3
